US07456164B2
Dimethyl-(4-{4-[3-(1-oxothiomorpholin-4-yl)propoxy]phenyl}-tetrahydropyran-4-ylmethyl)amine
Dimethyl-{4-[4-(3-thiomorpholin-4-ylpropoxy)phenyl]tetrahydro-pyran-4-ylmethyl}amine (300 mg, 0.792 mmol) and TFA (0.99 ml) were cooled to 0 to 5° C. and trifluoro-peracetic acid (4M, 0.77 ml) [4M solution prepared by the addition of 27.5% H2O2 (0.94 ml) to TFA (1.56 ml)] was added and the reaction stirred for six hours at 0 to 5° C. The mixture was diluted with DCM (6 ml), basified with NaOH (2M, 8 ml) and extracted with DCM (2×20 ml). The DCM extracts were dried over MgSO4, filtered and concentrated in vacuo at 35° C. Purification by chromatography on silica, eluant DCM:MeOH:NH3 (96:4:1) provided the title compound (200 mg, 61%) as a white solid. 1H NMR (400 MHz, CDCl3) δ7.21 (d, 2H), 6.86 (d, 2H), 4.01 (t, 2H), 3.75 (dt, 2H), 3.55 (td, 2H), 3.15-3.02 (m, 2H), 2.93-2.79 (m, 4H), 2.72 (dt, 2H), 2.64 (t, 2H), 2.40 (s, 2H), 2.16-1.82 (m, 6H), 1.97 (s, 6H).

reactant | Dimethyl-{4-[4-(3-thiomorpholin-4-ylpropoxy)phenyl]tetrahydro-pyran-4-ylmethyl}amine | 0.792 mmol, 300 mg | CN(CC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCSCC1)C | C21H34N2O2S
reactant | TFA | 0.99 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | trifluoro-peracetic acid | 4M, 0.77 ml | FC(C(=O)OO)(F)F | C2HF3O3
reactant | H2O2 | 0.94 ml | OO | H2O2
reactant | TFA | 1.56 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaOH | 2M, 8 ml | [OH-].[Na+]
solvent | DCM | 6 ml | C(Cl)Cl | CH2Cl2
product | Dimethyl-(4-{4-[3-(1-oxothiomorpholin-4-yl)propoxy]phenyl}-tetrahydropyran-4-ylmethyl)amine | 200 mg, 61% | CN(CC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCS(CC1)=O)C | C21H34N2O3S
